US05962449
A mixture of 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine (1.5 g, 0.0055 mol, prepared similarly as described in example 2) and potassium iodide (5.4 g, 0.0327 mol) in methyl ethyl ketone (100 ml) was heated at reflux temperature for 1 h and then stirred at room temperature overnight. The mixture was filtered and the solvent evaporated in vacuo. The crude halogenide was dissolved in dry dimethyl sulfoxide (15 ml) and kept. A solution of 3-acetylaminobenzoic acid ethyl ester (1.5 g, 7.4 mmol) in dry dimethyl sulfoxide (15 ml) was heated to 50° C. and sodium hydride (0.32 g, 8.1 mmol, 60% oil dispersion) was added in portions. The resulting mixture was heated at 120° C. for 2.5 h, and the mixture was allowed to cool to 80° C. before the above solution containing the halogenide was added. The resulting mixture was heated at 115-120° C. overnight and then allowed to cool to room temperature. Water (100 ml) was added and the resulting mixture was extracted with dichloromethane (3×200 ml). The organic extracts were discarded and pH of the aqueous phase was adjusted to 7. The aqueous phase was extracted with ethyl acetate (100 ml) and dichloromethane (2×100 ml), and the combined organic extracts were dried (MgSO4). The volatiles were removed in vacuo to give a residue which was purified by flash chromatography on silica gel (200 g) using ethyl acetate as eluent, affording 1.0 g of 3-(N-acetyl-N-(3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propyl)-amino)benzoic acid ethyl ester as an oil.

reactant | 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine | ClCCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C17H18ClN
reactant | potassium iodide | 0.0327 mol, 5.4 g | [I-].[K+]
reactant | 3-acetylaminobenzoic acid ethyl ester | 7.4 mmol, 1.5 g | C(C)OC(C1=CC(=CC=C1)NC(C)=O)=O | C11H13NO3
reactant | sodium hydride | 8.1 mmol, 0.32 g | [H-].[Na+]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | Water | 100 ml | O | H2O
product | 3-(N-acetyl-N-(3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propyl)-amino)benzoic acid ethyl ester | 1.0 g | C(C)OC(C1=CC(=CC=C1)N(CCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2)C(C)=O)=O | C28H30N2O3
